US06248766B1
[[2-(2,2-Diphenylethyl)thio-4H-[1]benzopyrano[4,3-d]thiazol-6-yl]oxy]acetic Acid
Using ethyl[(2-mercapto-4H-[1]benzopyrano[4,3-d]thiazol-6-yl)oxy]acetate and 2,2-diphenylethyl iodide, the procedure of Example 1 was otherwise repeated to synthesize the title compound. Yield 41%.

reactant | ethyl[(2-mercapto-4H-[1]benzopyrano[4,3-d]thiazol-6-yl)oxy]acetate | C(C)OC(COC1=CC=CC2=C1OCC1=C2N=C(S1)S)=O | C14H13NO4S2
reactant | 2,2-diphenylethyl iodide | C1(=CC=CC=C1)C(CI)C1=CC=CC=C1 | C14H13I
product | [[2-(2,2-Diphenylethyl)thio-4H-[1]benzopyrano[4,3-d]thiazol-6-yl]oxy]acetic Acid | Yield 41% | C1(=CC=CC=C1)C(CSC=1SC2=C(N1)C1=C(OC2)C(=CC=C1)OCC(=O)O)C1=CC=CC=C1 | C26H21NO4S2
